US04415572
A mixture of 14.0 g of N-(β-bromopropionyl)-p-aminoaniline, 18 g of bis(β-bromoethyl)amine monohydrobromide and 70 ml of methanol was stirred under reflux for 15 hours. After cooling, the reaction mixture was added 3.06 g of potassium carbonate and stirred under reflux for 8 hours. After cooling, crystals which formed were collected by filtration and washed with methanol to give 5.3 g of N-(β-bromopropionyl)-p-piperazinylaniline. Production of the compound was confirmed by IR and NMR spectra.

reactant | N-(β-bromopropionyl)-p-aminoaniline | 14.0 g | BrCCC(=O)NC1=CC=C(C=C1)N | C9H11BrN2O
reactant | bis(β-bromoethyl)amine monohydrobromide | 18 g | Br.BrCCNCCBr
reactant | potassium carbonate | 3.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 70 ml | CO | CH4O
product | N-(β-bromopropionyl)-p-piperazinylaniline | 5.3 g | BrCCC(=O)NC1=CC=C(C=C1)N1CCNCC1 | C13H18BrN3O
